US07745641B2
In a similar manner to Step 2 of Example 6, 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (41.2 mg, 0.100 mmol) was dissolved in acetonitrile (2 mL), and the solution was treated with 70% aqueous ethylamine-solution (0.192 mL, 2.42 mmol), acetic acid (0.345 mL, 6.03 mmol) and sodium triacetoxyborohydride (170 mg, 0.802 mmol). The reaction mixture was added with 1 mol/L hydrochloric acid and ethyl acetate, followed by extracting with 1 mol/L hydrochloric acid. The aqueous layer was added with sodium hydrogen carbonate to adjust the pH to 9. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 4-chloro-7-[1-(tert-butoxycarbonyl)-5-(ethylaminomethyl)indol-2-yl]isoindolinone (36.4 mg, yield 83%).

reactant | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.100 mmol, 41.2 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C22H19ClN2O4
reactant | ethylamine | 2.42 mmol, 0.192 mL | C(C)N | C2H7N
reactant | acetic acid | 6.03 mmol, 0.345 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.802 mmol, 170 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-(ethylaminomethyl)indol-2-yl]isoindolinone | 36.4 mg, yield 83% | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CNCC)C(=O)OC(C)(C)C)=O | C24H26ClN3O3
